* Test
*.control
*tran 10ns 5m
*gnuplot test-graph v(4) v(2)
*.endc
.inc UA555.mod
x1 0 2 4 1 3 2 5 1 UA555
v1 1 0 dc 9
c2 3 0 10pf
*r4 3 0 10k
c1 2 0 100nf
r3 4 0 100k
r2 5 2 10k
r1 1 5 10k

.INCLUDE ./Simulation.cmd
.end
